US08008303B2
5′-Butyrylamino-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide (Route A)
A mixture of 5′-amino-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide (54 mg), butyric acid (11 mg), EDAC (24 mg), HOBT (16 mg) and N-methylmorpholine (24 mg) in dry DMF (1 ml) was stirred at 20 C for 18 h. The mixture was then diluted with water (6 ml) and the resulting colourless solid collected by filtration and dried (42 mg).

reactant | 5′-amino-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide | 54 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)N)C)=O | C25H27N3O3S
reactant | butyric acid | 11 mg | C(CCC)(=O)O | C4H8O2
reactant | EDAC | 24 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 16 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 24 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 6 ml | O | H2O
product | 5′-Butyrylamino-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(CCC)=O)C)=O | C29H33N3O4S
